US07645789B2
To a solution of 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropanecarboxamide (120 mg, 0.31 mmol) in anhydrous DMF-THF (3.3 mL, 1:9) was added NaH (60% in mineral oil, 49 mg, 1.2 mmol) at room temperature. After 30 min under N2, the suspension was cooled down to −15° C. and a solution of acetyl chloride (1.1 eq.) in DMF (0.5 mL) was added dropwise. The reaction mixture was stirred for 30 min at −15° C. then for 6 h at room temperature. Water (0.5 mL) was added at 0° C., solvent was removed, and the residue was diluted with MeOH, filtrated and purified by preparative HPLC to give N-(1-acetyl-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclo-propanecarboxamide. 1H NMR (400 MHz, DMSO) δ 8.9 (s, 1H), 7.74 (d, J=2.1 Hz, 1H), 7.54 (d, J=9.0 Hz, 1H), 7.28 (dd, J1=2.1 Hz, J2=9.0 Hz, 1H), 7.01 (d, J=1.5 Hz, 1H), 6.93 (dd, J1=1.7 Hz, J2=8.0 Hz, 1H), 6.89 (d, J=8.0 Hz, 1H), 6.54 (bs, 1H), 6.02 (s, 2H), 2.80 (s, 3H), 1.42-1.40 (m, 11H), 1.06-1.05 (m, 2H). MS (ESI) m/e (M+H+) 419.3.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1H-indol-5-yl)cyclopropanecarboxamide | 0.31 mmol, 120 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(NC1=CC2)C(C)(C)C | C23H24N2O3
reactant | NaH | 1.2 mmol, 49 mg | [H-].[Na+]
reactant | acetyl chloride | 1.1 eq. | C(C)(=O)Cl | C2H3ClO
reactant | Water | 0.5 mL | O | H2O
solvent | DMF THF | 3.3 mL | CN(C)C=O.C1CCOC1
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-(1-acetyl-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclo-propanecarboxamide | C(C)(=O)N1C(=CC2=CC(=CC=C12)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1)C(C)(C)C | C25H26N2O4
